US05550122
e) 3-Nitro-6,9-dimethylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one
To a suspension of sodium hydride (0.73 g, 0.015 mol of a 50% dispersion in mineral oil) in dimethylformamide (75 ml) under argon was added in one portion 3-Nitro-9-methylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one (3.75 g, 0.014 mol). Methyl iodide (1.3 ml. 0.021 mol) was added, and the resulting solution was stirred overnight at room temperature. The mixture was diluted with ice Water, and the precipitated product was collected and washed with water and pet ether. The crude product was recrystallized from ethyl acetate to give 3.14 g (79% of theory) of the product as a pale yellow solid. m.p. 197°-198° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-Nitro-9-methylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one | 0.014 mol, 3.75 g | [N+](=O)([O-])C1=CC2=C(OC3=C(NC2=O)C=CC(=C3)C)N=C1 | C13H9N3O4
reactant | Methyl iodide | 0.021 mol, 1.3 ml | CI | CH3I
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-Nitro-6,9-dimethylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one | [N+](=O)([O-])C1=CC2=C(OC3=C(N(C2=O)C)C=CC(=C3)C)N=C1 | C14H11N3O4
